Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]#[C:3][C:4]([H:5])([O:6][H:7])[O:8][H:9].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([O:6][H:7])[O:8][H:9],-5.9792498190400005
[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:4][O:5][H:6],0.2327273054109999
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13],-1.15976401577
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9]>>[C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9].[H:1][C:2],7.3286495186
[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-5.50246110789
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[O:11][H:12]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:11][H:12],2.29373188758
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4]1[C:5][C:6]1([H:7])[H:8],1.39524291687
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3],7.10950206
[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3](=[O:4])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],0.537636641991
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]1([H:7])[C:8]([H:9])=[C:10]1[H:11],0.14945721363
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],5.80542947036
[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[H:7].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:8][C:9]([H:10])([H:11])[H:12],1.8089917672
[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([O:3][C:4][H:5])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.12439261348
[O:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1].[O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],2.85393768963
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][H:9]>>[C:5]([H:6])#[C:7].[H:1][C:2]=[C:3]([H:4])[C:8][H:9],6.732584621490001
[C:1]#[C:2][C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:4],2.32610157324
[O:1]=[C:2][C:8]([H:9])([H:10])[H:11].[O:3]=[C:4]=[C:5]([H:6])[H:7]>>[O:1]=[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-0.1971474332
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:7].[O:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:8]([H:9])([H:10])[O:11][H:12],2.07094825205
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-1.99964559832
[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-2.74924665142
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-4.17055667718
[C:11]([H:12])([H:13])[H:14].[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.8783266051
[C:6]([H:7])([H:8])=[C:9]([H:10])[H:11].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-0.473010770001
[C:6]([H:7])[H:8].[H:1][C:2]([O:3][C:4][H:5])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-7.464499062080001
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],7.23862509298
[H:10].[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10],-4.66732547809
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[H:4].[O:5]=[C:6]([H:7])[C:8]([H:9])[H:10],-0.0998741201493
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:3]([H:4])(=[C:5][C:9]([H:10])([H:11])[O:12][H:13])[H:8].[H:1][C:2]#[C:6][H:7],2.13043814195
[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-6.44058360325
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6][O:7][C:8]([H:9])[H:10],2.97512310152
[O:1]=[C:2]=[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:5].[O:1]=[C:2]=[C:3][C:4]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],1.62863889835
